US05169430
Preparation of N,N-dimethyl-2-chloro-5-isocyanatobenzenesulfonamide.
50 g of N,N-dimethyl-2-chloro-5-aminobenzene-sulfonamide (Example A-3 above) was treated with an excess of phosgene in ethyl acetate as is generally described in "Organic Functional Group Preparations" by S. R. Sandler and W. Karo on pages 364-365 (Academic Press, N.Y., 1983) (preparation of organic isocyanates), which disclosure is herein incorporated by reference. 48 g of the title compound was isolated as a tan solid with a melting point of 82°-85° C.

reactant | N,N-dimethyl-2-chloro-5-aminobenzene-sulfonamide | 50 g | CN(S(=O)(=O)C1=C(C=CC(=C1)N)Cl)C | C8H11ClN2O2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-2-chloro-5-isocyanatobenzenesulfonamide | 48 g | CN(S(=O)(=O)C1=C(C=CC(=C1)N=C=O)Cl)C | C9H9ClN2O3S
